US05347039
1.53 g of 80% sodium hydride (51.0 mmol) in 60 cm3 of tetrahydrofuran are introduced into a three-necked, round-bottomed flash equipped with a septum and a dropping funnel. The mixture is cooled to -10° C. and then 5.5 g of 97% N,N-diethylacetoacetamide (34.0 mmol) are slowly added. The mixture is stirred for 15 minutes. 21.25 cm3 of n-butyllithium in solution in hexane at 1.6 mol/liter are then slowly added and the mixture is then stirred for 15 minutes. 3.05 g of benzaldehyde (28.5 mmol) are introduced. The mixture is stirred for 25 minutes and then 6 cm3 of concentrated hydrochloric acid and 35 cm3 of water are added. Extraction is carried out with 3 times 25 cm3 of dichloromethane. The combined organic phases are washed with 2 times 100 cm3 of water and dried over sodium sulphate. After filtration and concentration to dryness under reduced pressure, there is obtained, with a yield of 97.7%, 7.33 g of N,N-diethyl -5-phenyl-5-hydroxy-3-oxopentanamide, the structure of which is confirmed by the proton nuclear magnetic resonance spectrum.

reactant | sodium hydride | 51.0 mmol, 1.53 g | [H-].[Na+]
reactant | N,N-diethylacetoacetamide | 34.0 mmol, 5.5 g | C(C)N(C(CC(=O)C)=O)CC | C8H15NO2
reactant | n-butyllithium | 21.25 cm3 | C(CCC)[Li]
reactant | benzaldehyde | 28.5 mmol, 3.05 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | hydrochloric acid | 6 cm3 | Cl | ClH
solvent | tetrahydrofuran | 60 cm3 | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | water | 35 cm3 | O | H2O
product | N,N-diethyl -5-phenyl-5-hydroxy-3-oxopentanamide | 7.33 g, yield of 97.7% | C(C)N(C(CC(CC(O)C1=CC=CC=C1)=O)=O)CC | C15H21NO3
